US04829063
40 g (0.2 mol) of ethyl α-ethoxalylpropionate are added to a suspension of 5.5 g (0.2 mol) of 80% strength sodium hydride in 300 ml of absolute xylene at 70° C. When the evolution of hydrogen has ended, 31.2 g (0.2 mol) of β-naphthaldehyde, dissolved in xylene, are added dropwise, and when the addition has ended the mixture is heated at the boiling point for 90 minutes. 150 ml of water are added to the cooled reaction mixture and the organic phase is separated off, washed with 7% strength sodium carbonate solution, dried over sodium sulphate and concentrated. The residue is distilled in vacuo. 21.7 g (45.2% of theory) of ethyl 2-methyl-3-β-naphthyl-acrylate of boiling point 110° C./0.13 mbar are obtained.

reactant | ethyl α-ethoxalylpropionate | 0.2 mol, 40 g | C(=O)(C(=O)OCC)C(C(=O)OCC)C | C9H14O5
reactant | sodium hydride | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | β-naphthaldehyde | 0.2 mol, 31.2 g | C1=C(C=CC2=CC=CC=C12)C=O | C11H8O
solvent | xylene | 300 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | water | 150 ml | O | H2O
product | ethyl 2-methyl-3-β-naphthyl-acrylate | 21.7 g, 45.2% | CC(C(=O)OCC)=CC1=CC2=CC=CC=C2C=C1 | C16H16O2
